US08791132B2
To a degassed solution of 1-(2-allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-4-yl-propan-2-ol (300 mg, 0.78 mmol) in DCM (20 mL) were added 1,3-dimethyl barbituric acid (368 mg, 2.3 mmol) and Pd(PPh3)4 (18 mg, 0.015 mmol). After stirring at RT for 30 min, the reaction mixture was diluted with DCM and washed with saturated potassium carbonate solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 1-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-4-yl-propan-2-ol. 1H NMR (CD3OD, formate salt) δ (ppm): 8.4 (d, 2H), 7.48 (d, 2H), 7.4 (s, 1H), 7.18 (d, 1H), 6.98 (d, 1H), 4.6 (bs, 1H), 4.4 (s, 2H), 4.3 (m, 2H), 3.6 (m, 2H), 3.4 (m, 2H), 3.1 (m, 2H). Separation by chiral HPLC provides enantiomers II-62a-b.

reactant | 1-(2-allyl-8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-4-yl-propan-2-ol | 0.78 mmol, 300 mg | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)Cl)CC(C)(O)C2=CC=NC=C2)CC1 | C22H24ClN3O
reactant | 1,3-dimethyl barbituric acid | 2.3 mmol, 368 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.015 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(8-chloro-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-4-yl-propan-2-ol | ClC1=CC=2C3=C(N(C2C=C1)CC(C)(O)C1=CC=NC=C1)CCNC3 | C19H20ClN3O
